US08168794B2
A solution of cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-(hydroxymethyl)piperidine-1-carboxylate (1.0 eq.), imidazole (1.1 eq.), tert-butyldimethylsilylchloride (1.1 eq.) and dimethylaminopyridine (0.1 eq.) in dichloromethane at a concentration of 0.1 M was stirred for 18 hours at which time the volatiles were removed in vacuo. Direct purification of the crude material by column chromatography (20% ethyl acetate/hexanes) yielded cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-((tert-butyldimethylsilyloxy)methyl)piperidine-1-carboxylate. LCMS (m/z): 379.0 (MH-Boc+); LC Rt=5.95 min.

reactant | cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-(hydroxymethyl)piperidine-1-carboxylate | 1.0 eq. | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)CO)C(=O)OCC1=CC=CC=C1 | C19H28N2O5
reactant | imidazole | 1.1 eq. | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilylchloride | 1.1 eq. | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylaminopyridine | 0.1 eq. | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | cis(+/−)-benzyl 3-(tert-butoxycarbonylamino)-5-((tert-butyldimethylsilyloxy)methyl)piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)CO[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=CC=C1 | C25H42N2O5Si
